US06828330B2
To a boiling solution of KMnO4 (0.38 g, 2.4 mmol) in water (8 mL), a boiling solution of 3H-imidazo[4,5-b]pyridin-2-ylmethanol (0.20 g, 1.4 mmol) and Na2CO3 (0.19 g, 1.5 mmol) in water (6 mL) is added. The resulting mixture is heated at reflux for 4 hr. The hot mixture is filtered, the filtrate is cooled to rt, and the pH adjusted to 2 using conc. HCl. The resulting precipitate is collected by vacuum filtration to afford 3H-imidazo[4,5-b]pyridine-2-carboxylic acid in 100% yield: MS for C7H5N3O2: m/z 164 (M+H)+.

reactant | KMnO4 | 2.4 mmol, 0.38 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 3H-imidazo[4,5-b]pyridin-2-ylmethanol | 1.4 mmol, 0.20 g | N1=C(NC2=NC=CC=C21)CO | C7H7N3O
reactant | Na2CO3 | 1.5 mmol, 0.19 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 8 mL | O | H2O
solvent | water | 6 mL | O | H2O
product | 3H-imidazo[4,5-b]pyridine-2-carboxylic acid | 100% yield | N1=C(NC2=NC=CC=C21)C(=O)O | C7H5N3O2
